US08975443B2
4-Tolylmorpholine
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with sodium tert-butoxide (56.9 mg, 0.592 mmol, 1.5 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (3.62 mg, 0.00395 mmol, 0.01 equivalents), phosphine ligand (0.00869 mmol, 0.022 equivalents) and dioxane (0.79 mL). To the slurry was added 4-chlorotoluene (47 μL, 0.395 mmol, 1 equivalents) and morpholine (42 μL, 0.474 mmol, 1.2 equivalents). The vial was sealed with a crimp top and stirred at 100° C. After 14 hours, the vial was removed from the heating block, cooled to room temperature and brought out of the glovebox. To assay the crude reaction, an aliquot (7 μL) was taken and diluted in acetonitrile (1.5 mL), then injected onto an HPLC instrument. For isolation purposes, the reaction solution was worked up by diluting with CH2Cl2 (2 mL) and filtering into a round-bottom flask. The vial was rinsed with CH2Cl2 (5 mL), followed by washing of the filter cake with CH2Cl2 (2 mL). The volatiles were removed on a rotary evaporator and the crude concentrate was purified by silica gel column chromatography (25 g silica gel, 85:15 heptane:ethyl acetate). The purified product was isolated as a beige solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.10 (d, J=8.2 Hz, 1H), 6.88-6.81 (m, 2H), 3.87 (dd, J=5.7, 3.9 Hz, 4H), 3.15-3.09 (m, 4H), 2.29 (s, 3H).

reactant | sodium tert-butoxide | 0.592 mmol, 56.9 mg, 1.5 equivalents | CC(C)([O-])C.[Na+]
reactant | phosphine | 0.00869 mmol, 0.022 equivalents | P | H3P
reactant | 4-chlorotoluene | 0.395 mmol, 47 μL, 1 equivalents | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | morpholine | 0.474 mmol, 42 μL, 1.2 equivalents | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00395 mmol, 3.62 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.79 mL | O1CCOCC1 | C4H8O2
product | 4-Tolylmorpholine | C1(=CC=C(C=C1)N1CCOCC1)C | C11H15NO
